* source MC34063_5V_TO_12V
L_L1         N14496 N15069  400uH  
R_R1         N14679 N14496  1k TC=0,0 
R_R3         N14679 N14860  470 TC=0,0 
R_R4         0 N14984  1k TC=0,0 
R_R5         N15412 N15283  86k TC=0,0 
R_R6         0 N15412  10k TC=0,0 
C_C3         0 N16042  350pF  TC=0,0 
C_C4         0 N15283  2200uF  TC=0,0 
D_D1         N15069 N15283 SS24 
V_V1         N14496 0 5Vdc
Q_Q1         N14984 N14860 N14496 BD190
M_M1         N15069 N14984 0 0 M2N6756
R_R7         N14496 N14496  470 TC=0,0 
X_U1         N16042 N14496 0 N15412 N14496 N14679 0 N14496 MC33063A PARAMS:
+  PERIOD=30u
** Floating/unmodeled pin fixups **
R__UC0001   N14496  0   {1/GMIN}
